US05574021
To a solution of 0.97 g (2.0 mmol) of 1-(t-butyldimethylsilyloxy)-3,5-bis(benzoyl)-2-deoxy-2,2-difluororibose in tetrahydrofuran (40 ml) cooled to -78° C. were added 4.0 ml of a 1M solution of potassium t-butoxide in tetrahydrofuran (4.0 mmol) dropwise. The reaction mixture was stirred 15 minutes at -78° C. and was then quenched with 0.45 ml glacial acetic acid (8.0 mmol). The reaction mixture was diluted with ethyl acetate (100 ml) and washed with brine (50 ml). The separated organic layer was dried with sodium sulfate and evaporated under reduced pressure. The resulting residue was chromatographed on silica gel and eluted with hexane containing 10-15% ethyl acetate. The product fractions were combined and concentrated under reduced pressure to yield 0.724 g (93%) of 1-(t-butyldimethylsilyloxy)-5-benzoyl-2-deoxy-2,2-difluororibose. Mass spec.: m/e=389=P+1, m/e=331=P-t-butyl.

reactant | 1-(t-butyldimethylsilyloxy)-3,5-bis(benzoyl)-2-deoxy-2,2-difluororibose | 2.0 mmol, 0.97 g | [Si](C)(C)(C(C)(C)C)OC(=O)C([C@](O)([C@H](O)C(O)C(C1=CC=CC=C1)=O)C(C1=CC=CC=C1)=O)(F)F | C25H30F2O7Si
reactant | potassium t-butoxide | CC(C)([O-])C.[K+]
reactant | acetic acid | 8.0 mmol, 0.45 ml | C(C)(=O)O | C2H4O2
solvent | tetrahydrofuran | 40 ml | O1CCCC1 | C4H8O
solvent | ethyl acetate | 100 ml | C(C)(=O)OCC | C4H8O2
solvent | tetrahydrofuran | 4.0 mmol | O1CCCC1 | C4H8O
product | 1-(t-butyldimethylsilyloxy)-5-benzoyl-2-deoxy-2,2-difluororibose | 0.724 g, 93% | [Si](C)(C)(C(C)(C)C)OC(=O)C([C@H](O)[C@H](O)C(O)C(C1=CC=CC=C1)=O)(F)F | C18H26F2O6Si
